US07858621B2
To a suspension of 3-(2-diethylamino-6-trifluoromethyl-pyridin-3-yl)-acrylic acid methyl ester (40 mg, 0.132 mmol) in THF (1 ml) was added a solution of 0.5 N-LiOH (0.3 ml), and the mixture was stirred for 3 hours at room temperature. The resulting residue was dissolved in H2O and then washed three times with EtOAc, acidified with 1N HCl to pH 1˜2. The solution was extracted three times with methylene chloride and then dried over anhyd. Na2SO4 and concentrated in vacuo to give 3-(2-diethylamino-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (33 mg, 87%).

reactant | 3-(2-diethylamino-6-trifluoromethyl-pyridin-3-yl)-acrylic acid methyl ester | 0.132 mmol, 40 mg | COC(C=CC=1C(=NC(=CC1)C(F)(F)F)N(CC)CC)=O | C14H17F3N2O2
reactant | LiOH | 0.3 ml | [Li+].[OH-]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3-(2-diethylamino-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 33 mg, 87% | C(C)N(C1=NC(=CC=C1C=CC(=O)O)C(F)(F)F)CC | C13H15F3N2O2
